US06187801B1
2,5,6-Trimethyl-8H-indeno[1,2-d]thiazole hydrobromide (compound of Example 20):
5,6-Dimethylindan-1-one is converted as described above for the other indan-1-ones into 2-bromo-5,6-dimethylindan-1-one. This is reacted with an equivalent amount of thioacetamide in acetone. The precipitate consisting of the hydrobromide of 2,5,6-trimethyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol is heated in glacial acetic acid and affords, after removal of the solvent and treatment with diisopropyl ether, 2,5,6-trimethyl-8H-indeno[1,2-d]thiazole hydrobromide with a melting point of 290° C.

reactant | 5,6-Dimethylindan-1-one | CC=1C=C2CCC(C2=CC1C)=O | C11H12O
reactant | 2-bromo-5,6-dimethylindan-1-one | BrC1C(C2=CC(=C(C=C2C1)C)C)=O | C11H11BrO
reactant | thioacetamide | C(C)(=S)N | C2H5NS
reactant | hydrobromide | Br | BrH
reactant | 2,5,6-trimethyl-8,8a-dihydroindeno[1,2-d]thiazol-3a-ol | CC=1SC2C(N1)(C=1C=C(C(=CC1C2)C)C)O | C13H15NOS
solvent | acetone | CC(=O)C | C3H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,5,6-Trimethyl-8H-indeno[1,2-d]thiazole hydrobromide | Br.CC=1SC2=C(N1)C=1C=C(C(=CC1C2)C)C | InChI=1S/C13H13NS.BrH/c1-7-4-10-6-12-13(14-9(3)15-12)11(10)5-8(7)2;/h4-5H,6H2,1-3H3;1H
